US07687495B2
b) 4-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-butan-2-one
Similar to example 29b, 1.68 g of N-methoxy-3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methylpropionamide and 4.3 ml of methylmagnesium bromide (1N solution in tetrahydrofuran) are used to afford the title compound as a colourless oil. Rf=0.23 (EtOAc-heptane 1:1); Rt=5.25.

reactant | N-methoxy-3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methylpropionamide | 1.68 g | CON(C(CC[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C37H49N3O8S
reactant | methylmagnesium bromide | 1N, 4.3 ml | C[Mg]Br
product | 4-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-butan-2-one | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CCC(C)=O | C36H46N2O7S
